US08455495B2
To a suspension of 3-(8-(2-chlorophenyl)-1-methyl-2-oxo-1,2-dihydropyrido[3,2-d]pyridazin-3-yl)-4-methylbenzoic acid (100 mg, 0.25 mmol; prepared by the general method shown in scheme 2) in DCM at 0° C. was added oxalyl chloride (43.7 μl, 0.49 mmol) followed by a drop of DMF. The reaction was stirred at 0° C. for 15 min then warmed to RT for 1 h. The volatile solvents were removed under reduced pressure and the residue was dissolved in DCM. To the reaction mixture was added 3-aminoisoxazole (54.6 μl, 0.74 mmol) and N,N-diisopropylethylamine (42.9 μl, 0.25 mmol). After the reaction mixture was stirred at RT for 3 h, the solvent was then removed in vacuo. The residual crude material was purified with Reverse phase-HPLC [elution gradient of 10-50% of (0.1% TFA in acetonitrile) in (0.1% of TFA) in water] and the fractions containing the product were combined and concentrated in vacuo. The remaining crude mixture was stirred with EtOAc and sat. Na2CO3. The organic layer was separated and washed with brine, separated, then dried with sodium sulfate and concentrated to give 3-(8-(2-chlorophenyl)-1-methyl-2-oxo-1,2-dihydropyrido[3,2-d]pyridazin-3-yl)-N-(isoxazol-3-yl)-4-methylbenzamide (33.0 mg) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.43 (1H, s), 9.48 (1H, s), 8.81 (1H, s), 8.24 (1H, s), 7.95-8.10 (2H, m), 7.76-7.86 (1H, m), 7.56-7.74 (3H, m), 7.46 (1H, d, J=8.0 Hz), 7.05 (1H, s), 3.12 (3H, s), 2.24 (3H, s); Mass Found: LC-MS (ESI): m/e=472/474

reactant | 3-(8-(2-chlorophenyl)-1-methyl-2-oxo-1,2-dihydropyrido[3,2-d]pyridazin-3-yl)-4-methylbenzoic acid | ClC1=C(C=CC=C1)C=1C2=C(C=NN1)C=C(C(N2C)=O)C=2C=C(C(=O)O)C=CC2C | C22H16ClN3O3
reactant | oxalyl chloride | 0.49 mmol, 43.7 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-aminoisoxazole | 0.74 mmol, 54.6 μl | NC1=NOC=C1 | C3H4N2O
reactant | N,N-diisopropylethylamine | 0.25 mmol, 42.9 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(8-(2-chlorophenyl)-1-methyl-2-oxo-1,2-dihydropyrido[3,2-d]pyridazin-3-yl)-N-(isoxazol-3-yl)-4-methylbenzamide | 33.0 mg | ClC1=C(C=CC=C1)C=1C2=C(C=NN1)C=C(C(N2C)=O)C=2C=C(C(=O)NC1=NOC=C1)C=CC2C | C25H18ClN5O3
